US08039469B2
To a 10 mL vial were added 9,9′-(6-chloro-1,3,5-triazine-2,4-diyl)bis(3,7-dioxa-9-azabicyclo[3.3.1]nonane) (150 mg, 0.406 mmol), 4-aminophenylboronic acid pinacol ester (133 mg, 0.61 mmol), Pd(PPh3)4 (10 mg), toluene (1 mL), EtOH (1 mL) and 2M Na2CO3 aqueous solution (0.305 mL). The resulting mixture was heated at 120° C. for 20 minutes in microwave oven. The reaction mixture was cooled to room temperature. The aqueous phase was extracted with EtOAc, and the combined organic phases were dried over (MgSO4). The solvent was removed under reduced pressure and the residue was subjected to HPLC separation to give 4-(4,6-di(3,7-dioxa-9-azabicyclo[3.3.1]nonan-9-yl)-1,3,5-triazin-2-yl)aniline as a white solid (120 mg).

reactant | 9,9′-(6-chloro-1,3,5-triazine-2,4-diyl)bis(3,7-dioxa-9-azabicyclo[3.3.1]nonane) | 0.406 mmol, 150 mg | ClC1=NC(=NC(=N1)N1C2COCC1COC2)N2C1COCC2COC1 | C15H20ClN5O4
reactant | 4-aminophenylboronic acid pinacol ester | 0.61 mmol, 133 mg | NC1=CC=C(C=C1)B1OC(C)(C)C(C)(C)O1 | C12H18BNO2
reactant | toluene | 1 mL | C1(=CC=CC=C1)C | C7H8
reactant | Na2CO3 | 2M, 0.305 mL | C(=O)([O-])[O-].[Na+].[Na+]
catalyst | Pd(PPh3)4 | 10 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | EtOH | 1 mL | CCO | C2H6O
product | 4-(4,6-di(3,7-dioxa-9-azabicyclo[3.3.1]nonan-9-yl)-1,3,5-triazin-2-yl)aniline | 120 mg | C12COCC(COC1)N2C2=NC(=NC(=N2)N2C1COCC2COC1)C1=CC=C(N)C=C1 | C21H26N6O4
